* C:\Users\pig\Documents\ee308\lab1 - Copy\output amplifier.asc
R1 N001 N004 1k
R2 N001 N007 1k
R3 N013 N019 50
R4 N015 N019 40
Q1 N004 in N013 0 2N3904
R5 N019 N022 1k
Q2 N007 N008 N015 0 2N3904
R6 N008 0 50
R7 N009 N008 2.5k
Q6 N003 N006 N010 0 2N3904
Q9 N020 N016 N017 0 2N3906
RL 0 out 50
V1 N001 0 12
V2 0 N022 12
V3 in 0 SINE(0 10m {freq}) AC 1
Q3 N006 N004 N002 0 2N3906
D1 N012 N016 1N4148
D2 N006 N012 1N4148
R16 N020 N022 100
R14 N001 N003 100
C1 N009 N008 6p
C4 N003 0 22n
C5 N020 0 22n
R12 N001 N005 3k
R15 N018 N022 3k
Q5 N016 N018 N021 0 2N3904
Q4 N018 N007 N005 0 2N3906
R9 N010 N009 5
R10 N009 N017 5
R8 N021 N022 300
R17 N001 N002 300
C2 N001 N002 200n
C6 N015 N014 350p
R13 N014 N013 10
R18 out N009 45
.model D D
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac oct 100 1 1Gig
* (+)
* (-)
* .tran 20u
.op
* pot
* .step param R5 3k 5k 100
.net I(RL) V3
.param freq=2Meg
.four {freq} 10 5 V(out)
.backanno
.end
