* C:\Users\pig\Documents\ee308\lab1 - Copy\output amplifier.asc
R1 N001 Vop 2k
R2 N001 Von 2k
R3 N013 N020 50
R4 N015 N020 50
Q1 Vop base N013 0 2N3904
R5 N020 N023 7k
Q2 Von N006 N015 0 2N3904
R6 N006 0 200
R7 N007 N006 20k
Q6 N003 N005 N008 0 2N3904
Q9 N021 N016 N017 0 2N3906
RL 0 out 50
V1 N001 0 12
V2 0 N023 12
V3 in 0 SINE(0 10m {freq}) AC 1
Q3 N005 Vop N002 0 2N3906
D1 N012 N016 1N4148
D2 N005 N012 1N4148
R16 N021 N023 100
R14 N001 N003 100
C1 N007 N006 1p
C4 N003 0 22n
C5 N021 0 22n
R12 N001 N004 3k
R15 N018 N023 3k
Q5 N016 N018 N022 0 2N3904
Q4 N018 Von N004 0 2N3906
R9 N008 N007 5
R10 N007 N017 5
R8 N022 N023 300
R17 N001 N002 300
C2 N001 N002 200n
R18 out N007 50
R19 N010 in {Rpot+1}
R20 N019 N010 {potVal-Rpot+1}
R13 N014 N013 400
C3 N015 N014 700p
R21 N019 0 100
R24 base N010 2k
R27 N001 NC_01 {Rpot2+1}
R28 NC_02 N023 {potVal2-Rpot2+1}
.model D D
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac oct 100 1 1Gig
* (+)
* (-)
* .tran 0 40u 20u
* .op
* .step param Rpot 1 2k 100
.net I(RL) V3
.param freq=100k
* .four {freq} 10 5 V(out)
.param Rpot=500
.param potVal=2k
.meas TRAN DCoff AVG V(out)
.param Rpot2=2.5k
.param potVal2=5k
.backanno
.end
