* C:\Users\adrik\Documents\ee308\lab1 - Copy\output amplifier.asc
R1 N001 Vop 2k
R2 N001 Von 2k
R3 N012 N019 50
R4 N014 N019 50
Q1 Vop base N012 0 2N3904
R5 N019 N022 7k
Q2 Von N006 N014 0 2N3904
R6 N006 0 170
R7 N007 N006 5k
Q6 N003 N005 N008 0 2N3904
Q9 N020 N015 N016 0 2N3906
RL 0 out 50
V1 N001 0 12
V2 0 N022 12
V3 in 0 SINE(0 10m {freq}) AC 1
Q3 N005 Vop N002 0 2N3906
D1 N011 N015 1N4148
D2 N005 N011 1N4148
R16 N020 N022 75
R14 N001 N003 75
C1 N007 N006 2p
C4 N003 0 22n
C5 N020 0 22n
R12 N001 N004 2.5k
R15 N017 N022 2.5k
Q5 N015 N017 N021 0 2N3904
Q4 N017 Von N004 0 2N3906
R9 N008 N007 5
R10 N007 N016 5
R8 N021 N022 300
R17 N001 N002 300
C2 N001 N002 200n
R18 out N007 50
R19 base in {Rpot+1}
R20 N018 base {potVal-Rpot+1}
R13 N013 N012 50
C3 N014 N013 500p
R21 N018 0 100
R27 N001 NC_01 {Rpot2+1}
R28 NC_02 N022 {potVal2-Rpot2+1}
.model D D
.lib C:\Users\adrik\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adrik\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac oct 100 1 1Gig
* (+)
* (-)
;tran 0 40u 20u
* .op
.net I(RL) V3
.param freq=200k
* .four {freq} 10 5 V(out)
.param Rpot=500
.param potVal=2k
.meas TRAN DCoff AVG V(out)
.param Rpot2=2.5k
.param potVal2=5k
.backanno
.end
